US20010018447A1
c) Preparation of 1,3-dihydro-2,2-dioxo-3-fluoro-4-chloro-3-methyl-7-amino-2,1-benzisothiazole
To the solution of 1,3-dihydro-2,2-dioxo-4-chloro-3-fluoro-7-nitro-2,1-benzisothiazole (100 mg, 0.4 mmol) in ethanol (10 ml), Tin (II) chloride (443 mg, 2.0 mmol) was added. The reaction mixture was stirred at room temperature for about 16 hours. Then all solvent was evaporated. Chromatography of the residue on silica gel (50% Ethyl acetate/Hexane) gave desired product (43 mg, 47%). EI-MS m/z 237.2 (M+).

reactant | 1,3-dihydro-2,2-dioxo-4-chloro-3-fluoro-7-nitro-2,1-benzisothiazole | 0.4 mmol, 100 mg | O=S1(NC2=C(C1F)C(=CC=C2[N+](=O)[O-])Cl)=O | C7H4ClFN2O4S
reactant | Tin (II) chloride | 2.0 mmol, 443 mg | [Sn](Cl)Cl
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 1,3-dihydro-2,2-dioxo-3-fluoro-4-chloro-3-methyl-7-amino-2,1-benzisothiazole | 43 mg, 47% | O=S1(NC2=C(C1(C)F)C(=CC=C2N)Cl)=O | C8H8ClFN2O2S
